US05753652
b) 1-Phenyl-3-buten-2(S)-amine
35.6 ml (0.28 mol) of an approximately 48% solution of boron trifluoride in ether are added at 5° C., over a period of 10 min, to a solution of 18.8 g (0.055 mol) of 3(S)-(Boc-amino)-2(R,S)-hydroxy-4-phenyl-1-trimethylsilyl-butane in 420 ml of methylene chloride. The reaction mixture is then stirred at RT for 16 h, cooled to 10°0 C. and, over a period of 20 min, 276 ml of a 4N sodium hydroxide solution are added. The aqueous phase is removed and extracted twice with 400 ml of methylene chloride each time. The combined organic extracts are washed with brine and dried over sodium sulfate. The title product is further used without additional purification. TLC Rf (C)=0.15; IR (methylene chloride) (cm-1): 3370, 3020, 2920, 1640, 1605.

reactant | boron trifluoride | B(F)(F)F | BF3
reactant | 3(S)-(Boc-amino)-2(R,S)-hydroxy-4-phenyl-1-trimethylsilyl-butane | 0.055 mol, 18.8 g | C(=O)(OC(C)(C)C)N[C@H](C(C[Si](C)(C)C)O)CC1=CC=CC=C1 | C18H31NO3Si
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 420 ml | C(Cl)Cl | CH2Cl2
product | 1-Phenyl-3-buten-2(S)-amine | C1(=CC=CC=C1)C[C@@H](C=C)N | C10H13N
